US07915267B2
5-methyl-4-oxo-N-({3′-[(1H-1,2,4-triazol-3-yloxy)methyl]biphenyl-3-yl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide
By a method similar to that in Example 22, and using, instead of ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate, ethyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate obtained according to the method described in U.S. Pat. No. 4,054,656 and using, instead of 1-[2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridin-4-yl]methaneamine, 1-(3′-{[(1-trityl-1H-1,2,4-triazol-3-yl)oxy]methyl}biphenyl-3-yl)methanamine obtained in Reference Example 135, the title compound was obtained as a white powder (4.7 mg, 2%).

reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | ethyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate | CC1=CSC=2N=C(NC(C21)=O)C(=O)OCC | C10H10N2O3S
reactant | 1-[2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridin-4-yl]methaneamine | C1(=CC=CC=C1)C(N1N=C(N=C1)CCCOC1=NC=CC(=C1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N5O
reactant | 1-(3′-{[(1-trityl-1H-1,2,4-triazol-3-yl)oxy]methyl}biphenyl-3-yl)methanamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)OCC=1C=C(C=CC1)C1=CC(=CC=C1)CN | C35H30N4O
product | 5-methyl-4-oxo-N-({3′-[(1H-1,2,4-triazol-3-yloxy)methyl]biphenyl-3-yl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)COC2=NNC=N2 | C24H20N6O3S
